US08211927B2
C: (S)-4-Chloro-5-(4-chlorophenyl)-N-(tetrahydrofuran-3-yl)isoxazole-3-carboxamide
A mixture of 4-chloro-5-(4-chlorophenyl)isoxazole-3-carbonyl chloride (24 mg, 0.087 mmol), (S)-tetrahydrofuran-3-amine (13 μL, 0.13 mmol), and potassium carbonate (36 mg, 0.261 mmol) in dichloromethane (1 mL) was stirred for 48 hours. The volatiles were removed in vacuo, and the residue was purified by silica gel chromatography, eluting with dichloromethane 5% methanol in dichloromethane to afford the title compound: (19.1 mg, 0.059 mmol). MS (ESI) m/z (M+H+): 327.2/329.2.

reactant | 4-chloro-5-(4-chlorophenyl)isoxazole-3-carbonyl chloride | 0.087 mmol, 24 mg | ClC=1C(=NOC1C1=CC=C(C=C1)Cl)C(=O)Cl | C10H4Cl3NO2
reactant | (S)-tetrahydrofuran-3-amine | 0.13 mmol, 13 μL | O1C[C@H](CC1)N | C4H9NO
reactant | potassium carbonate | 0.261 mmol, 36 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (S)-4-Chloro-5-(4-chlorophenyl)-N-(tetrahydrofuran-3-yl)isoxazole-3-carboxamide | ClC=1C(=NOC1C1=CC=C(C=C1)Cl)C(=O)N[C@@H]1COCC1 | C14H12Cl2N2O3
